US08623889B2
Step 2: N-(7-(3-fluoro-2-(hydroxymethyl)-6-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide
Sodium borohydride (11 mg, 0.29 mmol) was added to a solution of N-[7-(3-fluoro-2-formyl-6-methyl-phenyl)-3-isoquinolyl]cyclopropanecarboxamide (50 mg, 0.14 mmol) in THF (1 mL). The reaction mixture was heated at 40° C. for 1 hour and then diluted with ethyl acetate (40 mL) and washed with water (40 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was purified by reverse phase HPLC (5-85% acetonitrile in water w/0.1% NH4OH, 14 minutes). Desired fractions were combined and evaporated in vacuo to afford the title compound as an off-white solid (20 mg, 40%). 1H NMR (400 MHz, DMSO) δ 10.90 (s, 1H), 9.14 (s, 1H), 8.50 (s, 1H), 7.92 (d, J=8.5 Hz, 1H), 7.89 (s, 1H), 7.54 (dd, J=8.5, 1.4 Hz, 1H), 7.31 (dd, J=8.3, 5.8 Hz, 1H), 7.20-7.12 (m, 1H), 4.79 (t, J=4.9 Hz, 1H), 4.25-4.10 (m, 2H), 2.13-2.03 (m, 1H), 1.99 (s, 3H), 0.91-0.79 (m, 4H). LCMS (Method E): RT=4.648 min, M+H+=351.2.

reactant | Sodium borohydride | 0.29 mmol, 11 mg | [BH4-].[Na+]
reactant | N-[7-(3-fluoro-2-formyl-6-methyl-phenyl)-3-isoquinolyl]cyclopropanecarboxamide | 0.14 mmol, 50 mg | FC=1C(=C(C(=CC1)C)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C=O | C21H17FN2O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | N-(7-(3-fluoro-2-(hydroxymethyl)-6-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide | 20 mg, 40% | FC=1C(=C(C(=CC1)C)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)CO | C21H19FN2O2
